US07402608B2
To a cold (00C) stirred suspension of NaH (55% disperson in oil, 227.9 mg, 5.2 mmol, 1.3 eq) in THF (20 mL) was added drop wise a solution of 2-hydroxy-pent-4-enoic acid ethyl ester (0.576 g, 4.0 mmol) in THF (20 mL) and stirred for 1 h. The reaction mixture was then treated with 3-bromo-2-methylpropene (0.81 g, 6.0 mmol, 0.61 mL), slowly warmed up to rt, and stirred for 1 h. It was carefully quenched with saturated NH4Cl solution. Reaction mixture was extracted with EtOAc (3×20 mL) organic solution was washed with brine, dried (Na2SO4), concentrated. Purification of the residue on silica gel column chromatography using 5% EtOAc-Hexane furnished 2-(2-methyl-allyloxy)-pent-4-enoic acid ethyl ester (0.521 g, 66%) as oil. NMR 1H (CDCl3, 400 MHz): 5.9-5.78 (m, 1H), 5.16-5.06 (m, 2H), 4.97 (s, 1H), 4.91 (s, 1H), 4.26-4.16 (m, 2H), 4.072 (d, J=12.3, 1H), 3.93 (t, J=6.5, 1H), 3.813 (d, J=12.4, 1H), 1.15 (s, 3H), 1.28 (t, J=7.2, 3H).

reactant | NaH | 5.2 mmol, 227.9 mg, 1.3 eq | [H-].[Na+]
reactant | 2-hydroxy-pent-4-enoic acid ethyl ester | 4.0 mmol, 0.576 g | C(C)OC(C(CC=C)O)=O | C7H12O3
reactant | 3-bromo-2-methylpropene | 6.0 mmol, 0.61 mL, 0.81 g | BrCC(=C)C | C4H7Br
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 2-(2-methyl-allyloxy)-pent-4-enoic acid ethyl ester | 0.521 g, 66% | C(C)OC(C(CC=C)OCC(=C)C)=O | C11H18O3
